US07169925B2
Step B3: ((4-Chloro-2-cyanophenyl)-(2,2,2-trifluoro-ethanoyl)amino)-acetic acid ethyl ester
Under nitrogen, stir and cool to 0° C. a solution of N-(4-chloro-2-cyano-phenyl)-2,2,2-trifluoroacetamide (4.80 g, 19.31 mmol) in dimethylformamide (50 mL), and add NaH (0.7 g, 29.1 mmol). Stir the reaction for 1 h at ambient temperature and add ethyl bromoacetate (4.3 mL, 38.77 mmol) by means of a syringe. Stir at 50° C. overnight and then pour the reaction into aqueous ammonium chloride-ethyl acetate. Wash the organic layer with brine (2×'s), dry over MgSO4, filter and evaporate to obtain an oil. Chromatograph the oil eluting with 20% ethyl acetate/heptane and then 30% ethyl acetate/heptane. Concentrate the appropriate fractions and obtain 6.0 g of a solid MS 335(M+H), m.p. 71–73° C.

reactant | N-(4-chloro-2-cyano-phenyl)-2,2,2-trifluoroacetamide | 19.31 mmol, 4.80 g | ClC1=CC(=C(C=C1)NC(C(F)(F)F)=O)C#N | C9H4ClF3N2O
reactant | NaH | 29.1 mmol, 0.7 g | [H-].[Na+]
reactant | ethyl bromoacetate | 38.77 mmol, 4.3 mL | BrCC(=O)OCC | C4H7BrO2
reactant | ammonium chloride ethyl acetate | [Cl-].[NH4+].C(C)(=O)OCC
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | ((4-Chloro-2-cyanophenyl)-(2,2,2-trifluoro-ethanoyl)amino)-acetic acid ethyl ester | 6.0 g | C(C)OC(CN(C(C(F)(F)F)=O)C1=C(C=C(C=C1)Cl)C#N)=O | C13H10ClF3N2O3
